US07700591B2
A mixture of (1S)-4-amino-N-[2-tert-butoxy-5-(trifluoromethyl)benzyl]1-isopropylcyclopent-2-ene-1-carboxamide (35 g, 88 mmol) and diethyl oxomalonate (31 g, 176 mmol) in toluene (350 mL) was refluxed until no more starting material left as judged by HPLC. The reaction mixture was cooled to 0° C. and 1,8-diazabicyclo[5.4.0]undec-7-ene (27 g, 176 mmol) was added. The reaction mixture was then warmed to r.t. and stirred at this temperature for 1 hr before being quenched with 1M HCl and vigorously stirred for 1 hr. The reaction mixture was diluted with EtOAc and the two layers were separated. The aqueous phase was then extracted with EtOAc (5×). The organics were combined, dried over sodium sulfate and evaporated to dryness. The crude was purified by column chromatography on silica gel eluting with hexane:EtOAc (11:1) to yield 32 g of (1S)—N-[2-tert-butoxy-5-(trifluoromethyl)benzyl]-1-isopropyl-4-oxocyclopent-2-ene-1-carboxamide as a pale yellow solid.

reactant | (1S)-4-amino-N-[2-tert-butoxy-5-(trifluoromethyl)benzyl]1-isopropylcyclopent-2-ene-1-carboxamide | 88 mmol, 35 g | NC1C=C[C@@](C1)(C(=O)NCC1=C(C=CC(=C1)C(F)(F)F)OC(C)(C)C)C(C)C | C21H29F3N2O2
reactant | diethyl oxomalonate | 176 mmol, 31 g | O=C(C(=O)OCC)C(=O)OCC | C7H10O5
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 176 mmol, 27 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 350 mL | C1(=CC=CC=C1)C | C7H8
product | (1S)—N-[2-tert-butoxy-5-(trifluoromethyl)benzyl]-1-isopropyl-4-oxocyclopent-2-ene-1-carboxamide | 32 g | C(C)(C)(C)OC1=C(CNC(=O)[C@]2(C=CC(C2)=O)C(C)C)C=C(C=C1)C(F)(F)F | C21H26F3NO3
